US04080326
Powdered citric acid monohydrate (42.0 g) was added in small portions over one hour to concentrated sulphuric acid (180 ml) at 0° C and the mixture stirred until a clear solution was obtained. N,N-Diethylguanidine sulphate (32.8 g) was added over 15 minutes and the solution stirred for one hour at the ambient temperature (ca 22°-24° C) and then at 90° C for a further 2 hours. After dilution of the mixture with deionised water (1050 ml), ammonia solution (s.g. 0.880) was added to adjust the pH to 4, and the mixture cooled to 0° C for one hour. The precipitate was collected by filtration, washed with ice-water (20 ml), acetone (100 ml), and with ether (100 ml) to yield 4-hydroxy-2-diethylaminopyrimidin-6-yl acetic acid as a white powder, having a melting point (with decomposition) of 156°-157° C.

reactant | citric acid monohydrate | 42.0 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | sulphuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
reactant | N,N-Diethylguanidine sulphate | 32.8 g | S(=O)(=O)(O)O.C(C)N(C(=N)N)CC
reactant | ammonia | N | H3N
solvent | water | 1050 ml | O | H2O
product | 4-hydroxy-2-diethylaminopyrimidin-6-yl acetic acid | OC1=NC(=NC(=C1)CC(=O)O)N(CC)CC | C10H15N3O3
